US08809371B2
Potassium carbonate (262 mg) and bis(2-methoxyethyl)amine (840 mg) were added to a DMF (2 ml) solution containing 2-chloro-5-nitropyridine (100 mg), followed by stirring at room temperature for 5 hours. Water (15 ml) was added to the reaction solution, followed by stirring at room temperature for 1 hour. Insoluble matter was collected by filtration, and a white solid of N,N-bis(2-methoxyethyl)-5-nitropyridin-2-amine (117 mg) was thus obtained.

reactant | Potassium carbonate | 262 mg | C([O-])([O-])=O.[K+].[K+]
reactant | bis(2-methoxyethyl)amine | 840 mg | COCCNCCOC | C6H15NO2
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
reactant | 2-chloro-5-nitropyridine | 100 mg | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | Water | 15 ml | O | H2O
product | N,N-bis(2-methoxyethyl)-5-nitropyridin-2-amine | 117 mg | COCCN(C1=NC=C(C=C1)[N+](=O)[O-])CCOC | C11H17N3O4
